US06476030B1
c) 7-(2-Fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-ol
To a stirred solution of toluene-4-sulfonic acid 7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-yl ester (82.0 mg, 0.213 mmol) in 1,4-dioxane (4 ml) and water (0.8 ml) was added aqueous 4 N NaOH solution (0.270 ml, 1.08 mmol). The solution was heated at 60° C. for 3 h, then the solvents were removed in vacuo. The residue was dissolved in water (10 ml) and washed with ethyl acetate (10 ml). The aqueous layer was acidified to pH<3 and extracted with dichloromethane (6×25 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo to leave 40.7 mg (83%) of the title compound; 1H NMR (360 MHz, d6-DMSO) δ 6.34 (1H, s), 7.42-7.48 (2H, m), 7.71 (1H, m), 7.79 (1H, td, J 7.2 and 1.7 Hz), 9.40 (1H, s), 11.74 (1H, s).

reactant | toluene-4-sulfonic acid 7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-yl ester | 0.213 mmol, 82.0 mg | FC1=C(C=CC=C1)C1=NN=CC=2N1N=C(C2)OS(=O)(=O)C2=CC=C(C=C2)C | C18H13FN4O3S
reactant | NaOH | 1.08 mmol, 4 N, 0.270 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.8 ml | O | H2O
product | 7-(2-Fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-ol | 40.7 mg, 83% | FC1=C(C=CC=C1)C1=NN=CC=2N1N=C(C2)O | C11H7FN4O
